US08383637B2
(S)-4-tert-Butoxycarbonylamino-5-methyl-hexanoic acid, benzyl ester
A 50 mL, one-neck round bottom flask (equipped with a magnetic stirrer and a nitrogen inlet) was charged with (S)-4-tert-butoxycarbonylamino-5-methyl-hexanoic acid prepared as in Example 63 above (500 mg, 2.04 mmol), cesium carbonate (1.99 g, 6.11 mmol), benzyl chloride (773 mg, 6.11 mmol), and tetrahydrofuran (15 mL). The reaction was stirred at room temperature for three days (weekend) and then was heated to a mild reflux for 6 h. The reaction mixture was poured into saturated aqueous sodium bicarbonate (100 mL) and extracted with ethyl ether (2×100 mL). The combined organics were dried and concentrated to give 1 g of crude product. The residue was dissolved in heptane-dichloromethane (9:1, ˜7 mL) and eluted through a 12 g Isco silica gel cartridge to yield the title compound as a solid.

reactant | (S)-4-tert-butoxycarbonylamino-5-methyl-hexanoic acid | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)O)C(C)C | C12H23NO4
reactant | cesium carbonate | 6.11 mmol, 1.99 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl chloride | 6.11 mmol, 773 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | heptane dichloromethane | ˜7 mL | CCCCCCC.ClCCl
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (S)-4-tert-Butoxycarbonylamino-5-methyl-hexanoic acid, benzyl ester | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(C)C | C19H29NO4
